US03981932
A mixture of 17.6 g. (0.05 moles) of ethyl 3-chloro-5-nitro-4-cyclohexylphenylglyoxylate in 100 ml. of methanol containing 0.05 moles of citric acid and 1.5 g. of 5% palladium-on-carbon is shaken with hydrogen at 3 atm. pressure and 27°C until 3 moles of hydrogen are absorbed. The mixture is filtered, washed with methanol and the filtrate concentrated in vacuo to obtain ethyl 3-amino-5-chloro-4-cyclohexylphenylglyoxylate isolated as the citrate salt.

reactant | ethyl 3-chloro-5-nitro-4-cyclohexylphenylglyoxylate | 0.05 moles | ClC=1C=C(C=C(C1C1CCCCC1)[N+](=O)[O-])C(C(=O)OCC)=O | C16H18ClNO5
reactant | methanol | 0.05 moles | CO | CH4O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 3 moles | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
product | ethyl 3-amino-5-chloro-4-cyclohexylphenylglyoxylate | NC=1C=C(C=C(C1C1CCCCC1)Cl)C(C(=O)OCC)=O | C16H20ClNO3
